* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1007.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 355K
R2 N001 0 365
V3 IN 0 SINE(0 1m .01)
X§U1 IN N001 +V -V OUT LT1007
.tran 300
* Gain 1000 Amplifier with .01% Accuracy
.lib LTC.lib
.backanno
.end
